US07381730B2
A suspension of 5,7-dimethoxy-3-(4-methoxyphenyl)-4(3H)-quinazolinone (2.40 g, 7.68 mmol), as prepared in Example 18 or 19 and anhydrous lithium chloride (6.51 g, 153.6 mmol) in anhydrous dimethylacetamide (51.2 mL) was warmed to 135° C. After 3 to 5 min the trimethoxy compound goes into solution, then after approximately 10 min a voluminous precipitate formed. The precipitate redissolved after 20 min and the resulting solution was stirred at 135° C. for an additional 2.5 h. Upon cooling to room temperature, the reaction was poured into water (100 mL) and acidified with 1.0N HCl which gave a white precipitate. The mixture was extracted with dichloromethane (3×). The combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated in vacuo to remove the methylene chloride, leaving a white precipitate in dimethylacetamide. Filtration provided 1.10 g (48% yield) of 5-hydroxy-7-methoxy-3-(4-methoxyphenyl)-4(3H)-quinazolinone, as a white solid.

reactant | 5,7-dimethoxy-3-(4-methoxyphenyl)-4(3H)-quinazolinone | 7.68 mmol, 2.40 g | COC1=C2C(N(C=NC2=CC(=C1)OC)C1=CC=C(C=C1)OC)=O | C17H16N2O4
reactant | lithium chloride | 153.6 mmol, 6.51 g | [Cl-].[Li+]
reactant | water | 100 mL | O | H2O
reactant | HCl | 1.0N | Cl | ClH
solvent | dimethylacetamide | 51.2 mL | CC(=O)N(C)C | C4H9NO
product | 5-hydroxy-7-methoxy-3-(4-methoxyphenyl)-4(3H)-quinazolinone | 1.10 g, 48% yield | OC1=C2C(N(C=NC2=CC(=C1)OC)C1=CC=C(C=C1)OC)=O | C16H14N2O4
